US05478856
A 4.0 ml of n-butyllithium (1.6M) was added to a tetrahydrofuran (20 ml) solution of diisopropylamine (0.9 ml) at -70° C. under nitrogen atmosphere. After 15 minutes, to the solution was added a tetrahydrofuran (8 ml) solution of 1.24 g of 3,5-dimethoxy-4-hydroxycinnamonitrile at -60° C. or less, and the solution was stirred for 1 hour. A 0.7 ml of ethyl formate was added to the solution, and the mixture was further stirred for 1 hour. A 1N hydrochloric acid was added to the mixture and a temperature of the mixture was elevated to room temperature. The mixture was extracted with 250 ml of ethyl acetate, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. A crystal formed was washed with ethanol to give 430 mg (yield 43.6%) of α-formyl-3,5-dimethoxy-4-hydroxycinnamonitrile. The compound thus obtained was dissolved in 20 ml of tetrahydrofuran- To the solution 3.2 g of carbethoxymethylenetriphenylphosphorane was added. The mixture was stirred at room temperature for 32 hours, and concentrated under reduced pressure. A 80 ml of ethyl ether was added to the residue. The solution was washed with water and 1N hydrochloric acid in this order, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. A crystal formed was washed with ethanol to give 320 mg (yield 57.3%) of γ-cyano-6-(3,5-dimethoxy-4-hydroxy)phenyl-2,4-pentadienic acid ethyl ester, which was dissolved in a mixed solvent of tetrahydrofuran (8 ml) and methanol (10 ml). To the solution, an aqueous potassium hydroxide solution (140 mg/5 ml) was added. The mixture was stirred at room temperature for 48 hours, concentrated under reduced pressure. A 70 ml of water was added to the residue. The aqueous solution was washed with ethyl acetate and acidified with conc. hydrochloride. The aqueous layer was extracted with 200 ml of ethyl acetate, dried over anhydrous magnesium sulfate and concentrated to dryness under reduced pressure to give 190 mg (yield 65.1%) of a desired γ-cyano-β-(3,5-dimethoxy-4-hydroxy)phenyl-2,4-pentadienic acid.

reactant | n-butyllithium | 1.6M, 4.0 ml | C(CCC)[Li]
reactant | diisopropylamine | 0.9 ml | C(C)(C)NC(C)C | C6H15N
reactant | 3,5-dimethoxy-4-hydroxycinnamonitrile | 1.24 g | COC=1C=C(C=CC#N)C=C(C1O)OC | C11H11NO3
reactant | ethyl formate | 0.7 ml | C(=O)OCC | C3H6O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | α-formyl-3,5-dimethoxy-4-hydroxycinnamonitrile | 430 mg, yield 43.6% | C(=O)C(C#N)=CC1=CC(=C(C(=C1)OC)O)OC | C12H11NO4
